US08193236B2
(6-Dimethylaminomethyl-imidazo[1,2-a]pyridin-3-yl)-acetic acid ethyl ester
(6-Formyl-imidazo[1,2-a]pyridin-3-yl)-acetic acid ethyl ester (770 mg, 3.15 mmol) is dissolved in THF (10 ml) and treated with an excess of dimethylamine. The reaction mixture is stirred for 16 hours at room temperature in a stainless steel autoclave. A solution of sodium cyanoborohydride (229 mg, 3.46 mmol, 1.1 equiv) in MeOH (1.0 ml) and glacial acetic acid (1.1 ml) are added, and the solution is stirred for 1 hour at 60° C. The reaction mixture is diluted with water and adjusted to pH 8-9 by the addition of concentrated aqueous NaHCO3 solution. Extraction with EtOAc, washing with brine, drying over Na2SO4 and removal of solvent affords the crude reaction product. Purification via flash chromatography (EtOAc/cyclohexane 4:1, +0.2% NEt3) yields the title compound (242 mg, 29%). 1H NMR (400 MHz, CDCl3): δ=7.76-7.74 (m, 1H), 7.35 (dd, J=9.3/1.0 Hz, 1H), 7.31 (s, 1H), 6.99 (dd, J=9.1/1.7 Hz, 1H), 3.95 (q, J=7.1 Hz, 2H), 3.71 (s, 2H), 3.23 (s, 2H), 2.06 (s, 6H), 1.03 (t, J=7.1 Hz, 3H). MS (ES+): 262 (M+H)+.

reactant | (6-Formyl-imidazo[1,2-a]pyridin-3-yl)-acetic acid ethyl ester | 3.15 mmol, 770 mg | C(C)OC(CC1=CN=C2N1C=C(C=C2)C=O)=O | C12H12N2O3
reactant | dimethylamine | CNC | C2H7N
reactant | sodium cyanoborohydride | 3.46 mmol, 229 mg, 1.1 equiv | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | MeOH | 1.0 ml | CO | CH4O
solvent | acetic acid | 1.1 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | (6-Dimethylaminomethyl-imidazo[1,2-a]pyridin-3-yl)-acetic acid ethyl ester | 242 mg, 29% | C(C)OC(CC1=CN=C2N1C=C(C=C2)CN(C)C)=O | C14H19N3O2
